US07846956B2
1.88 g of (1-benzyl-1H-pyrazol-4-yl)methanol was dissolved in 30 ml of dichloromethane, and 2.1 ml of thionyl chloride was added. The mixture was stirred at room temperature for 5 hours. The reaction mixture was concentrated under reduced pressure to obtain 2.39 g of 1-benzyl-4-(chloromethyl)-1H-pyrazole hydrochloride.

reactant | (1-benzyl-1H-pyrazol-4-yl)methanol | 1.88 g | C(C1=CC=CC=C1)N1N=CC(=C1)CO | C11H12N2O
reactant | thionyl chloride | 2.1 ml | S(=O)(Cl)Cl | Cl2OS
solvent | dichloromethane | 30 ml | ClCCl | CH2Cl2
product | 1-benzyl-4-(chloromethyl)-1H-pyrazole hydrochloride | 2.39 g | Cl.C(C1=CC=CC=C1)N1N=CC(=C1)CCl | InChI=1S/C11H11ClN2.ClH/c12-6-11-7-13-14(9-11)8-10-4-2-1-3-5-10;/h1-5,7,9H,6,8H2;1H
